US05795892
59 g (233 mmol) 2-(3-hydroxy-5-methyl-phenyl)-isoindole-1,3-dione, 44 ml (700 mmol) chloroacetonitrile and 96.7 g (700 mmol) potassium carbonate were heated for 4 h to 80° C. in 300 ml dry dimethyl-formamide. It was poured onto 2 l water, filtered and 60.5 g (89%) [3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-5-methyl-phenoxy]-acetonitrile of Fp 156°-157° C. was obtained.

reactant | 2-(3-hydroxy-5-methyl-phenyl)-isoindole-1,3-dione | 233 mmol, 59 g | OC=1C=C(C=C(C1)C)N1C(C2=CC=CC=C2C1=O)=O | C15H11NO3
reactant | chloroacetonitrile | 700 mmol, 44 ml | ClCC#N | C2H2ClN
reactant | potassium carbonate | 700 mmol, 96.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 l | O | H2O
solvent | dimethyl-formamide | 300 ml | CN(C=O)C | C3H7NO
product | [3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-5-methyl-phenoxy]-acetonitrile | 60.5 g, 89% | O=C1N(C(C2=CC=CC=C12)=O)C=1C=C(OCC#N)C=C(C1)C | C17H12N2O3
